US07851473B2
(2) 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride
To a solution of tert-butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (2.89 g, 7.95 mmol) in ethyl acetate (200 ml) was added a 4N solution (50 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 30 hours. The solvent was distilled off under reduced pressure to give 1.86 g (70.0%) of the desired product as a solid.

reactant | tert-butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 7.95 mmol, 2.89 g | FC=1C=C(C=CC1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H23FN2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperidine dihydrochloride | 1.86 g, 70.0% | Cl.Cl.FC=1C=C(C=CC1)C=1N=C(SC1)N1CCCCC1 | InChI=1S/C14H15FN2S.2ClH/c15-12-6-4-5-11(9-12)13-10-18-14(16-13)17-7-2-1-3-8-17;;/h4-6,9-10H,1-3,7-8H2;2*1H
